US08871767B2
N-[5-(6-chloroimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide
A 20 mL vial is charged with 5-(6-chloroimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)aniline (0.156 g, 0.5 mmol), acetonitrile (4.12 mL) and pyridine (0.081 mL). The mixture is added trimethylacetyl chloride (0.123 mL, 0.001 mol) and stirred for 20 min at 80° C. The solution is concentrated, taken into EtOAc (10 mL) and washed once with HCl (10 mL, 1M) and NaOH (10 mL, 1M). Organics are dried, concentrated purified on silica (0-100% EtOAc in Hexanes) to give the title compound (106 mg, 54% yield). LCMS m/z=396.4 [M+H]+, tR=2.54 min. (compound same as Example 81)

reactant | 5-(6-chloroimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)aniline | 0.5 mmol, 0.156 g | ClC=1C=CC=2N(C1)C=C(N2)C=2C=CC(=C(N)C2)C(F)(F)F | C14H9ClF3N3
reactant | acetonitrile | 4.12 mL | C(C)#N | C2H3N
reactant | trimethylacetyl chloride | 0.001 mol, 0.123 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 0.081 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-(6-chloroimidazo[1,2-a]pyridin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide | 106 mg, 54% yield | ClC=1C=CC=2N(C1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C19H17ClF3N3O
